US03959278
4. 3-chloro-3-methyl-2-nitroso-1-butyl acetate (VI) (X=CH2O.CO.CH3)
3,3-Dimethylallyl acetate (25 ml.), iso-amyl nitrite (45 ml.) and glacial acetic acid (65 ml.) were cooled in an ice-salt mixture. An ice-cold mixture of concentrated hydrochloric acid (20 ml.) and glacial acetic acid (20 ml.) was added gradually with stirring. The solution became green and towards the end of the addition a white solid precipitated. The solid was collected by filtration and dried (13 g.) Recrystallisation from CCl4 -- 40°/60° petrol gave the title compound as colourless needles (10 g.) m.p. 117°-119°.

reactant | 3,3-Dimethylallyl acetate | 25 ml | C(C)(=O)OCC=C(C)C | C7H12O2
reactant | iso-amyl nitrite | 45 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 65 ml | C(C)(=O)O | C2H4O2
product | 3-chloro-3-methyl-2-nitroso-1-butyl acetate | 10 g | C(C)(=O)OCC(C(C)(C)Cl)N=O | C7H12ClNO3
